US06172057B2
1-(4-Methoxy-benzenesulfonyl)-cyclopentanecarboxylic acid was prepared starting from 1-(4-methoxy-benzenesulfonyl)-cyclopentanecarboxylic acid ethyl ester (2.2 g, 7.0 mmol) dissolved in methanol (50 ml) and 10 N NaOH (30 ml). The resulting reaction mixture was worked up as outlined in Example 9. Yield 1.66 g, 83%. Colorless solid; mp 112-115° C.; MS: 285 (M+H)+.

reactant | 1-(4-methoxy-benzenesulfonyl)-cyclopentanecarboxylic acid ethyl ester | 7.0 mmol, 2.2 g | C(C)OC(=O)C1(CCCC1)S(=O)(=O)C1=CC=C(C=C1)OC | C15H20O5S
solvent | methanol | 50 ml | CO | CH4O
solvent | NaOH | 10 N, 30 ml | [OH-].[Na+]
product | 1-(4-Methoxy-benzenesulfonyl)-cyclopentanecarboxylic acid | COC1=CC=C(C=C1)S(=O)(=O)C1(CCCC1)C(=O)O | C13H16O5S
